US08138189B2
Step 4: 2-(2-Chloro-4-methoxy-phenyl)-1-(5-methyl-pyrazin-2-yl)-propan-1-one
A solution of 2-(2-chloro-4-methoxy-phenyl)-1-(5-methyl-pyrazin-2-yl)-ethanone (370 mg, 1.3 mmol) in DMF (5 mL) was added slowly over 30 min to a suspension of NaH (50% in mineral oil, 96 mg, 1.9 mmol) in DMF (2 mL). After 30 min, methyl iodide (199 mg, 1.4 mmol) was added slowly, and the mixture was stirred for 2d at r.t. The reaction mixture was taken up in ethyl acetate, and washed (water, then brine). The organic layer was separated, dried (Na2SO4), and the solvent was evaporated to give a residue, which was purified by column chromatography (silica gel, heptane:ethyl acetate=100:0-80:20) to give the title compound (290 mg, 75%). 1H NMR (300 MHz, CDCl3) δ 9.08 (1H, s), 8.45 (1H, s), 7.11 (1H, d), 6.92 (1H, d), 6.73 (1H, dd), 5.53 (1H, q), 3.75 (3H, s), 2.61 (3H, s), 1.49 (3H, d); MS (m/e)=291.0 [MH+].

reactant | 2-(2-chloro-4-methoxy-phenyl)-1-(5-methyl-pyrazin-2-yl)-ethanone | 1.3 mmol, 370 mg | ClC1=C(C=CC(=C1)OC)CC(=O)C1=NC=C(N=C1)C | C14H13ClN2O2
reactant | NaH | 1.9 mmol, 96 mg | [H-].[Na+]
reactant | methyl iodide | 1.4 mmol, 199 mg | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Chloro-4-methoxy-phenyl)-1-(5-methyl-pyrazin-2-yl)-propan-1-one | 290 mg, 75% | ClC1=C(C=CC(=C1)OC)C(C(=O)C1=NC=C(N=C1)C)C | C15H15ClN2O2
